US04786649
1-Benzyl-4-hydroxy-3-methanesulfonylmethylpyrrolidine (80.8 g) is added to methanol-water (3:2) (1 liter), and thereto is added dropwise sodium azide (24.5 g), and the mixture is refluxed for 24 hours. After the reaction, the mixture is concentrated and extracted with dichloromethane. The dichloromethane solution is washed with water and saturated saline, dried and concentrated to give 1-benzyl-4-hydroxy-3-azidomethylpyrrolidine (59.7 g) as an oil.

reactant | 1-Benzyl-4-hydroxy-3-methanesulfonylmethylpyrrolidine | 80.8 g | C(C1=CC=CC=C1)N1CC(C(C1)O)CS(=O)(=O)C | C13H19NO3S
reactant | sodium azide | 24.5 g | [N-]=[N+]=[N-].[Na+]
solvent | methanol water | 1 liter | CO.O
product | 1-benzyl-4-hydroxy-3-azidomethylpyrrolidine | 59.7 g | C(C1=CC=CC=C1)N1CC(C(C1)O)CN=[N+]=[N-] | C12H16N4O
